US09102591B2
2-chloro-6-fluoro-N-(2-(4-chlorophenyl)-2-(tetrahydro-2H-pyran-4-yl)ethyl)benzamide
From 2-chloro-6-fluorobenzoic acid and 2-(4-chlorophenyl)-2-(tetrahydro-2H-pyran-4-yl)ethanamine. LCMS (MH+): m/z=396.1, tR (minutes, Method G)=2.36

reactant | 2-chloro-6-fluorobenzoic acid | ClC1=C(C(=O)O)C(=CC=C1)F | C7H4ClFO2
reactant | 2-(4-chlorophenyl)-2-(tetrahydro-2H-pyran-4-yl)ethanamine | ClC1=CC=C(C=C1)C(CN)C1CCOCC1 | C13H18ClNO
product | 2-chloro-6-fluoro-N-(2-(4-chlorophenyl)-2-(tetrahydro-2H-pyran-4-yl)ethyl)benzamide | ClC1=C(C(=O)NCC(C2CCOCC2)C2=CC=C(C=C2)Cl)C(=CC=C1)F | C20H20Cl2FNO2
